US07678834B2
A mixture of 9 ml water, 5.3 ml hydrochloric acid (32 per cent by weight), 8 ml methanol, 17.5 g allylmethylamine, 8.00 g 1,4-dioxaspiro[4.5]decan-8-one and 8.0 g potassium cyanide was stirred for 65 hours at room temperature. The yellowish-white suspension obtained was extracted four times with 25 ml diethyl ether each time, the combined extracts were dried over sodium sulfate, filtered and concentrated and the residue was largely freed from solvent residues in vacuo. 11.3 g 8-(allylmethylamino)-1,4-dioxaspiro[4.5]decane-8-carbonitrile were obtained as a pale brown liquid.

reactant | hydrochloric acid | 5.3 ml | Cl | ClH
reactant | allylmethylamine | 17.5 g | C(C=C)CN | C4H9N
reactant | 1,4-dioxaspiro[4.5]decan-8-one | 8.00 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | potassium cyanide | 8.0 g | [C-]#N.[K+]
solvent | methanol | 8 ml | CO | CH4O
solvent | water | 9 ml | O | H2O
product | 8-(allylmethylamino)-1,4-dioxaspiro[4.5]decane-8-carbonitrile | 11.3 g | C(C=C)CNC1(CCC2(OCCO2)CC1)C#N | C13H20N2O2
